US06403639B1
1.00 g of 4-acetoxy-3,5-diisopropylphenol and 0.71 g of hexamethylenetetramine were dissolved in 4 ml of trifluoroacetic acid and the mixture was heated under reflux for 20 minutes. The reaction solution was cooled to 0° C., then combined with water and extracted with ethyl acetate. The organic layers were washed with a saturated aqueous sodium bicarbonate solution and then saturated brine, dried over anhydrous magnesium sulfate and then concentrated. The concentrate was dissolved in 10 ml of methanol, 13 ml of 1N hydrochloric acid was added, and the solution was heated under reflux for 1.5 hours. The reaction mixture was cooled to room temperature, then combined with water and extracted with ethyl acetate. The organic layers were washed with saturated brine, dried over anhydrous magnesium sulfate and then concentrated. The concentrate was purified by silica gel column chromatography (in n-hexane containing 5%-10% ethyl acetate) to give 0.78 g of 5-acetoxy-2-hydroxy-4,6-diisopropylbenzaldehyde as a pale yellow oil (yield 70%).

reactant | 4-acetoxy-3,5-diisopropylphenol | 1.00 g | C(C)(=O)OC1=C(C=C(C=C1C(C)C)O)C(C)C | C14H20O3
reactant | hexamethylenetetramine | 0.71 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | water | O | H2O
reactant | trifluoroacetic acid | 4 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 5-acetoxy-2-hydroxy-4,6-diisopropylbenzaldehyde | 0.78 g, yield 70% | C(C)(=O)OC=1C(=CC(=C(C=O)C1C(C)C)O)C(C)C | C15H20O4
